US06797718B2
N-{2-chloro-5,6-dimethyl-4-[(2-phenoxyethyl)amino]pyridin-3-yl}pentanamide
Triethylamine (1.39 ml), anhydrous acetonitrile (100 ml), and 2-chloro-5,6-dimethyl-N4-(2-phenoxyethyl)pyridine-3,4-diamine (2.92 g) from Part A of Example 2 were combined and cooled to 0° C. in an ice bath. Valeryl chloride (0.59 ml) was slowly added to the reaction mixture. After 2hours, the reaction mixture was heated to 55° C. for 24 hours, at which point HPLC analysis indicated the reaction was complete. The reaction mixture was cooled and the solvent was removed under reduced pressure. The resulting oil was dissolved in dichloromethane and washed with water. The organic layer was dried with magnesium sulfate and the solvent was removed under reduced pressure. The product was then passed through a silica gel column using 50/50 ethyl acetate/hexane as the eluant. The resulting light brown solid was used in the next step.

reactant | Triethylamine | 1.39 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-N4-(2-phenoxyethyl)pyridine-3,4-diamine | 2.92 g | ClC1=NC(=C(C(=C1N)NCCOC1=CC=CC=C1)C)C | C15H18ClN3O
reactant | Valeryl chloride | 0.59 ml | C(CCCC)(=O)Cl | C5H9ClO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | N-{2-chloro-5,6-dimethyl-4-[(2-phenoxyethyl)amino]pyridin-3-yl}pentanamide | ClC1=NC(=C(C(=C1NC(CCCC)=O)NCCOC1=CC=CC=C1)C)C | C20H26ClN3O2
